US09107954B2
(7-Amino-heptyl)-carbamic acid benzyl ester (21)
On an ice-water bath, to the solution of 1,7-diaminoheptane (1.433 g, 11 mmol) in CH2Cl2/MeOH (125 mL/125 mL) was added the solution of CbzCl (1.71 g, 10 mmol) in CH2Cl2 (250 mL) dropwise within 12 h while keeping the temperature below 5° C. The mixture was allowed to stir at the same temperature for another half of an hour before concentrated under reduced pressure to remove most of the MeOH. Water (150 mL) was then added, and the aqueous layer was adjusted to pH=2 using 6 N HCl. The layers were separated. The aqueous layer was washed with DCM (50 mL×3), then adjusted to pH=12 with 10 N NaOH and extracted with DCM (50 mL×3). The combined organic layers were dried over Na2SO4, concentrated and purified by flash column using DCM/MeOH (9/1) to give 856 mg white solid in 32% yield. 1H NMR (400 MHz, CDCl3): δ7.35-7.29 (m, 5H), 5.09 (s, 2H), 4.73 (brs, 1H), 3.18 (q, J=6.64 Hz, 2H), 2.67 (t, J=6.94 Hz, 2H), 1.55-1.44 (m, 2H), 1.44-1.40 (m, 2H), 1.32 (m, 6H). 13C NMR (100 MHz, CDCl3): δ 156.40, 136.70, 128.50, 128.09, 128.06, 66.55, 42.18, 41.06, 33.71, 29.91, 29.09, 26.76, 26.68. mp 78-80° C. IR v (Diamond, cm−1): 3327, 1686, 1532, 1263, 1144. MS (ESI) m/z found 264.8 (M+H)+.

reactant | 1,7-diaminoheptane | 11 mmol, 1.433 g | NCCCCCCCN | C7H18N2
reactant | CbzCl | 10 mmol, 1.71 g | C(=O)(OCC1=CC=CC=C1)Cl | C8H7ClO2
solvent | CH2Cl2 MeOH | 125 mL | C(Cl)Cl.CO
solvent | CH2Cl2 | 250 mL | C(Cl)Cl | CH2Cl2
product | (7-Amino-heptyl)-carbamic acid benzyl ester | 856 mg, 32% yield | C(C1=CC=CC=C1)OC(NCCCCCCCN)=O | C15H24N2O2
